US07635715B2
Step E: Preparation of Ethyl 1-cyano-4-hydroxy-1-methyl-2-oxo-naphthalene-3-carboxylate
A solution of benzaldehyde oxime (0.37 mL, 3.7 mmol) in dry DMF (4 mL) was added to a stirred suspension of NaH (0.16 mL, 3.7 mmol) in dry dioxane (50 mL) in a nitrogen atmosphere at room temperature. After 30 minutes, a solution of ethyl 3-(2-(2-cyano-1-ethoxy-1-oxopropan-2-yl)phenyl)propiolate (1.12 g, 3.7 mmol) was added in dry DMF (5 mL), and the solution was stirred overnight. The solvent was removed under vacuum, and water was added to the residue. The product was extracted with EtOAc. The organic layer was washed with water, dried with MgSO4, concentrated in vacuo, and purified by silica flash chromatography eluting with 0-30% EtOAc/hexane. MS (m/z)=272 (M+H)+.

reactant | benzaldehyde oxime | 3.7 mmol, 0.37 mL | C(C1=CC=CC=C1)=NO | C7H7NO
reactant | NaH | 3.7 mmol, 0.16 mL | [H-].[Na+]
reactant | ethyl 3-(2-(2-cyano-1-ethoxy-1-oxopropan-2-yl)phenyl)propiolate | 3.7 mmol, 1.12 g | C(#N)C(C(=O)OCC)(C)C1=C(C=CC=C1)C#CC(=O)OCC | C17H17NO4
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Ethyl 1-cyano-4-hydroxy-1-methyl-2-oxo-naphthalene-3-carboxylate | C(#N)C1(C(C(=C(C2=CC=CC=C12)O)C(=O)OCC)=O)C | C15H13NO4
